US04518713
1-{2-{-N-[4-(4-Fluorophenyl)-4-oxobutyl]-N-methylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride
A solution prepared from 8.55 g (15.5 mmol) of 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride, 130 ml of methanol and 50 ml of 3N HCl was heated at reflux for 3 hours under nitrogen and allowed to cool to room temperature. The methanol was evaporated and the residue made basic with saturated sodium carbonate and extracted with ether. The ether extract was washed with saturated sodium chloride and dried over potassium carbonate. Filtration followed by evaporation of the solvent provided an oil. The yield of the dihydrochloride was 6.8 g (13.4 mmol, 86%). Recrystallization from ethanol/methanol provided analytically pure material.

reactant | 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride | 15.5 mmol, 8.55 g | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=CC(=CC=C1)Cl
reactant | HCl | 3N, 50 ml | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | 130 ml | CO | CH4O
product | 1-{2-{-N-[4-(4-Fluorophenyl)-4-oxobutyl]-N-methylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(CCCN(C)CCN1CCC(CC1)OC1=CC(=CC=C1)Cl)=O | InChI=1S/C24H30ClFN2O2.2ClH/c1-27(13-3-6-24(29)19-7-9-21(26)10-8-19)16-17-28-14-11-22(12-15-28)30-23-5-2-4-20(25)18-23;;/h2,4-5,7-10,18,22H,3,6,11-17H2,1H3;2*1H
